US05585373
Synthesis of benzyl (triphenylphosphoranylidene)acetate
A 22.9 g quantity of benzyl bromoacetate was dissolved in 100 ml of dry benzene. A 26.2 g quantity of triphenylphosphine was added thereto at room temperature and stirred overnight. The precipitated solids were collected by filtration, washed with benzene and dissolved in 250 ml of dichloromethane. A 14 ml quantity of triethylamine was added with ice-cooling and stirred with ice-cooling for 30 minutes and at room temperature for a further 30 minutes. The reaction mixture was transferred to a separating funnel, washed with water and dried over magnesium sulfate. The solvent was distilled off and diethyl ether was added to the residue. The resulting precipitate was collected by filtration to provide the title compound as white crystals (yield 41%).

reactant | benzyl bromoacetate | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | benzyl (triphenylphosphoranylidene)acetate | yield 41% | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OCC1=CC=CC=C1 | C27H23O2P
